US05801170
1-(3-Methyl-4-nitrophenyl)-1,2,4-triazole
A mixture of 4-fluoro-2-methylnitrobenzene (2 g), 1,2,4-triazole (0.9 g) and anhydrous potassium carbamate (1.78 g) was stirred and heated in dimethylsulphoxide (50 ml) at 90° C. for 24 hours. The reaction mixture was cooled, poured into water (200 ml) and extracted with ethyl acetate. The ethyl acetate layer was separated, dried (MgSO4) and evaporated to give an orange solid which was purified by chromatography on silica using pentane/ethyl acetate as eluant, (1.8 g, 69%).

reactant | 4-fluoro-2-methylnitrobenzene | 2 g | FC1=CC(=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | 1,2,4-triazole | 0.9 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbamate | 1.78 g | C(N)([O-])=O.[K+]
reactant | water | 200 ml | O | H2O
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 1-(3-Methyl-4-nitrophenyl)-1,2,4-triazole | CC=1C=C(C=CC1[N+](=O)[O-])N1N=CN=C1 | C9H8N4O2
